US09227978B2
1-(3-(4-(2-(5,6-Dichloro-1H-indol-3-yl)acetyl)piperazin-1-yl)azetidin-1-yl)prop-2-en-1-one (V-61)
A mixture of 2-(5,6-dichloro-1H-indol-3-yl)acetic acid (90 mg, 0.372 mmol), 1-(3-(piperazin-1-yl)azetidin-1-yl)prop-2-en-1-one (87 mg, 0.446 mmol), EDCI.HCl (107 mg, 0.558 mmol), HOBt (75 mg, 0.558 mmol) in DMF (3 mL) at 0° C., Et3N (112 mg, 1.11 mmol) was added. The resulting mixture was stirred at RT for 16 h. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (dichloromethane/methanol=30:1) to afford the desired product (12 mg, 7.66% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ:11.19 (bs, 1H), 7.79 (s, 1H), 7.59 (s, 1H), 7.35 (d, 1H), 6.28 (dd, J=9.6, 16.8 Hz, 1H), 6.09 (dd, J=2.4, 17.2 Hz, 1H), 5.66 (dd, J=2.4, 10.4 Hz, 1H), 4.21-4.18 (m, 1H), 4.02-3.98 (m, 1H), 3.93-3.88 (m, 1H), 3.78 (s, 2H), 3.74-3.70 (m, 1H), 3.53-3.47 (m, 4H), 3.10-3.07 (m, 1H), 2.25-2.19 (m, 4H). ESI-MS m/z: 423.3[M+1].

reactant | 2-(5,6-dichloro-1H-indol-3-yl)acetic acid | 0.372 mmol, 90 mg | ClC=1C=C2C(=CNC2=CC1Cl)CC(=O)O | C10H7Cl2NO2
reactant | 1-(3-(piperazin-1-yl)azetidin-1-yl)prop-2-en-1-one | 0.446 mmol, 87 mg | N1(CCNCC1)C1CN(C1)C(C=C)=O | C10H17N3O
reactant | EDCI.HCl | 0.558 mmol, 107 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.558 mmol, 75 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 1.11 mmol, 112 mg | CCN(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-(3-(4-(2-(5,6-Dichloro-1H-indol-3-yl)acetyl)piperazin-1-yl)azetidin-1-yl)prop-2-en-1-one | 12 mg, 7.66% yield | ClC=1C=C2C(=CNC2=CC1Cl)CC(=O)N1CCN(CC1)C1CN(C1)C(C=C)=O | C20H22Cl2N4O2
